US05143644
Synthesis of 6-decyloxynaphthalene-2-aldehyde (II)
In 10 ml of chloroform, 84 mg (0.43 mmol) of the thus obtained 6-decyloxy-2-hydroxymethylnaphthalene was dissolved, and 235 mg (2.57 mmol) of activated manganese dioxide powder was added. The oxidation reaction was carried out with vigorous stirring at room temperature for 12 hours.

reactant | 6-decyloxy-2-hydroxymethylnaphthalene | C(CCCCCCCCC)OC=1C=C2C=CC(=CC2=CC1)CO | C21H30O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 2.57 mmol, 235 mg | [O-2].[O-2].[Mn+4]
product | 6-decyloxynaphthalene-2-aldehyde | C(CCCCCCCCC)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H28O2
